US08895744B2
6-(4-methoxyphenyl)-3-(3-nitrophenyl)-9H-pyrido[2,3-b]indole (R356)
3-chloro-6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indole (50 mg, 0.16 mmol, 1 equiv.), 3-nitrophenylboronic acid (81 mg, 0.48 mmol, 3 equiv.), K3PO4 (136 mg, 0.64 mmol, 4 equiv.), S-PHOS (13.1 mg, 0.032 mmol, 0.2 equiv.), Pd(OAc)2 (4.0 mg, 0.016 mmol, 0.1 equiv.) are introduced in a schlenk tube which is flushed with N2. Freshly distilled dioxane (0.433 ml) is then injected and the reaction is carried out at 100° C. overnight. The mixture is filtered through celite and concentrated under reduced pressure. The crude product is purified over silica gel chromatography (eluant CH2Cl2/AcOEt 6:4). The white solid obtained is washed with methanol to give the product as a white solid (43 mg, 0.11 mmol) in 69% yield.

reactant | 3-chloro-6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indole | 0.16 mmol, 50 mg, 1 equiv. | ClC1=CC2=C(NC3=CC=C(C=C23)C2=CC=C(C=C2)OC)N=C1 | C18H13ClN2O
reactant | 3-nitrophenylboronic acid | 0.48 mmol, 81 mg, 3 equiv. | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | K3PO4 | 0.64 mmol, 136 mg, 4 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-PHOS | 0.032 mmol, 13.1 mg, 0.2 equiv. | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | Pd(OAc)2 | 0.016 mmol, 4.0 mg, 0.1 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(4-methoxyphenyl)-3-(3-nitrophenyl)-9H-pyrido[2,3-b]indole | 0.11 mmol, 43 mg, 69% yield | COC1=CC=C(C=C1)C=1C=C2C3=C(NC2=CC1)N=CC(=C3)C3=CC(=CC=C3)[N+](=O)[O-] | C24H17N3O3
